US05387696
Nα -[(S)-1-ethoxycarbonyl-3-phenylpropyl]-L-alanyl-L-proline
50 mmoles (9.3 g) Ala-Pro were suspended in 100 ml ethanol, mixed with 10 moles (1 g) triethylamine, 75 mmoles (15.5 g) 2-oxo-4-phenyl-butyric acid ethyl ester and 18 g molecular sieve 3 A and agitated for 2 hours under anhydrous conditions. One teaspoon of dehydrated Raney nickel and 15 g molecular sieve 3 A were now added, briefly reacted and subsequently hydrogenated for 22 hours under an atmosphere of 4 bars of H2. The reaction mixture was filtered and evaporated to concentrate it to a small volume. Conversion (according to HPLC) relative to Ala-Pro used: 95.6%, product yield (according to HPLC): 95%. The residue was taken up in 250 ml ethanol and adjusted to pH 4.25 with conc. HCl (an aliquot was removed for this purpose, diluted with water and the pH adjusted, then the entire amount of HCl required was calculated). The solution was evaporated to low bulk under reduced pressure at 40° C. to 50 g, filtered with Celite and diluted to 100 ml total volume with ethyl acetate. 5.2 g maleic acid dissolved in ethyl acetate+ethanol were added and the mixture was seeded with enalapril maleate. The crystallizate formed was separated off and dried.

reactant | Ala-Pro | 50 mmoles, 9.3 g | N[C@@H](C)C(=O)N1[C@H](C(=O)O)CCC1 | C8H14N2O3
reactant | triethylamine | 10 moles, 1 g | C(C)N(CC)CC | C6H15N
reactant | 2-oxo-4-phenyl-butyric acid ethyl ester | 75 mmoles, 15.5 g | C(C)OC(C(CCC1=CC=CC=C1)=O)=O | C12H14O3
reactant | HCl | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | Raney nickel | One teaspoon | [Ni] | Ni
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | Nα -[(S)-1-ethoxycarbonyl-3-phenylpropyl]-L-alanyl-L-proline | C(C)OC(=O)[C@H](CCC1=CC=CC=C1)N[C@@H](C)C(=O)N1[C@H](C(=O)O)CCC1 | C20H28N2O5
